US06432993B1
To 50 ml of an anhydrous tetrahydrofuran suspension containing 1.72 g of sodium hydride (55% by weight), 6.75 g of 2,6-dimethyl-4-pivaloyloxyphenol were added in small portions, followed by stirring at room temperature for 30 minutes. To the reaction mixture, 3.18 g of chloromethyl methyl ether were added and the resulting mixture was stirred at the same temperature for 3 hours. Water was added to the reaction mixture, followed by extraction with ethyl acetate. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure, whereby 8.17 g of 4-methoxymethoxy-3,5-dimethylphenyl pivaloate were obtained as a crude product.

reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 1.72 g | [H-].[Na+]
reactant | 2,6-dimethyl-4-pivaloyloxyphenol | 6.75 g | CC1=C(C(=CC(=C1)OC(C(C)(C)C)=O)C)O | C13H18O3
reactant | chloromethyl methyl ether | 3.18 g | COCCl | C2H5ClO
solvent | Water | O | H2O
product | 4-methoxymethoxy-3,5-dimethylphenyl pivaloate | 8.17 g | C(C(C)(C)C)(=O)OC1=CC(=C(C(=C1)C)OCOC)C | C15H22O4
